US07547691B2
1-Methylpiperidine-4-carboxylic acid {3-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-amide
A stirred suspension of piperidine-4-carboxylic acid {3-[5-chloro-4-(4-cyclopropylcarbamoylbenzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-amide (231 mg, 0.450 mmol) in 1,2-dichloroethane (3 mL) and methanol (3 mL) is treated at room temperature with aqueous 37% formaldehyde (0.200 mL, 3.02 mmol) in the presence of sodium triacetoxyborohydride (165 mg, 0.779 mmol) for 24 hours. The mixture is then concentrated under reduced pressure, and subjected to chromatographic purification on silica gel, eluting with 2 M NH3/MeOH in dichloromethane: 8-15%, to provide the title compound (40 mg, 17% yield). ES+(m/z) 527 (35Cl) and 529 (37Cl) [M+H].

reactant | piperidine-4-carboxylic acid {3-[5-chloro-4-(4-cyclopropylcarbamoylbenzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-amide | 0.450 mmol, 231 mg | ClC=1C(=NC(=NC1)NCCCNC(=O)C1CCNCC1)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O | C25H29ClN6O2S
reactant | formaldehyde | 3.02 mmol, 0.200 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.779 mmol, 165 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
solvent | methanol | 3 mL | CO | CH4O
product | 1-Methylpiperidine-4-carboxylic acid {3-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-amide | 40 mg, 17% yield | ClC=1C(=NC(=NC1)NCCCNC(=O)C1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O | C26H31ClN6O2S
